US09359371B2
(1) Preparation: 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylsulfinyl)pyrimidine-5-carboxylic acid
In DCM (20 mL) was dissolved 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylthio) pyrimidine-5-carboxylic acid (200 mg, 0.59 mmol). The solution was cooled in an ice bath and m-CPBA (101 mg, 0.59 mmol) was then added. The reaction was warmed to ambient temperature for 5 h. Then water was added and the reaction mixture was extracted with DCM. The organic phase was dried and concentrated to give a solid. The product was used in the subsequent procedure without further purification.

reactant | 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylthio) pyrimidine-5-carboxylic acid | 0.59 mmol, 200 mg | ClC=1C=C(CNC2=NC(=NC=C2C(=O)O)SC)C=CC1OC | C14H14ClN3O3S
reactant | m-CPBA | 0.59 mmol, 101 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | water | O | H2O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylsulfinyl)pyrimidine-5-carboxylic acid | ClC=1C=C(CNC2=NC(=NC=C2C(=O)O)S(=O)C)C=CC1OC | C14H14ClN3O4S
